US07235574B2
vii) 4-[4-(4-{2-[(E)-2-(-4-Pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1-trityl-1H-[1,2,3]triazole
7.8 mg (0.20 mmol) 95% sodium hydride were given at 0° C. to a solution of 90 mg (0.20 mmol) 4-[4-(1-trityl-1H-[1,2,3]triazol-4-yl)-butyl]-phenol in 3.0 ml N,N-dimethylformamide and stirred for 15 min. 66 mg (0.20 mmol) 4-chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole were added and stirring continued at 25° C. for 2 h. The reaction mixture was poured into water, the precipitate isolated by filtration und purified by LC-MS to yield 98 mg (65%) of the title compound

reactant | sodium hydride | 0.20 mmol, 7.8 mg | [H-].[Na+]
reactant | 4-[4-(1-trityl-1H-[1,2,3]triazol-4-yl)-butyl]-phenol | 0.20 mmol, 90 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NC(=C1)CCCCC1=CC=C(C=C1)O | C31H29N3O
reactant | 4-chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole | 0.20 mmol, 66 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(F)(F)(F)(F)F | C12H9ClF5NOS
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | 4-[4-(4-{2-[(E)-2-(-4-Pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1-trityl-1H-[1,2,3]triazole | 98 mg, 65% | FS(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCC=1N=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)(F)(F)F | C43H37F5N4O2S
